US05070089
ii) Methyl 4-(2,3-dihydroxybenzyl)-1-piperazinecarbodithioate hydrochloride
In 3 ml of acetone was dissolved 250 mg of methyl 4-(2,3-dihydroxybenzyl)-1-piperazinecarbodithioate. To the solution was dropwise added under chilling with ice 0.84 ml of 1-N HCl/ether mixture, and the resulting mixture was stirred at room temperature. The solvent was distilled off under reduced pressure. The residue was stirred at room temperature with 2 ml of acetone. Precipitated crystals were collected by filtration and washed with 4 ml of acetone to give 213 mg of the desired compound as a white powder, m.p. 187°-189° C. (decomp.), yield 76.2%.

reactant | methyl 4-(2,3-dihydroxybenzyl)-1-piperazinecarbodithioate | 250 mg | OC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1O | C13H18N2O2S2
reactant | HCl ether | Cl.CCOCC
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | Methyl 4-(2,3-dihydroxybenzyl)-1-piperazinecarbodithioate hydrochloride | 213 mg, yield 76.2% | Cl.OC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1O | InChI=1S/C13H18N2O2S2.ClH/c1-19-13(18)15-7-5-14(6-8-15)9-10-3-2-4-11(16)12(10)17;/h2-4,16-17H,5-9H2,1H3;1H
